US09290485B2
d) [5-({[1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]carbamic acid tert-butyl ester
A mixture of 1-(4-hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid (0.95 g, 4.07 mmol), (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.024 g, 4.07 mmol), HATU (2.013 g, 5.30 mmol) and DIPEA (2.85 mL, 16.29 mmol) in 50 mL DMF was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed with 1 n HCl solution and saturated sodium bicarbonate solution. The organic solution was dried over MgSO4, filtered and concentrated to yield the crude product which was used in the next step without further purification. LCMS (Method A) RtA=1.279; [M+H]+=467.0.

reactant | 1-(4-hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid | 4.07 mmol, 0.95 g | OCC1=CC=C(CN2N=NC(=C2)C(=O)O)C=C1 | C11H11N3O3
reactant | (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 4.07 mmol, 1.024 g | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CN)C)=O | C13H21N3O2
reactant | HATU | 5.30 mmol, 2.013 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 16.29 mmol, 2.85 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [5-({[1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CO)C)=O | C24H30N6O4
